US07741321B2
To a stirred solution of 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester (15.0 g, 84.3 mmol) in DMF (50 mL) was added sodium hydride (6.7 g, 170 mmol, 60% in mineral oil) at 0° C. After hydrogen evolution ceased, 2-bromo-1,1-diethoxy-ethane (16.5 g, 84.3 mmol) was added dropwise to the reaction mixture. The reaction was stirred at 160° C. for 15 hours. The reaction mixture was poured onto ice (100 g) and extracted with CH2Cl2. The combined organics were dried over Na2SO4. The solvent was evaporated under vacuum to give crude 1-[4-(2,2-diethoxy-ethoxy)-phenyl]-cyclopropanecarboxylic acid (10 g), which was used directly in the next step without purification.

reactant | 1-(4-hydroxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 84.3 mmol, 15.0 g | COC(=O)C1(CC1)C1=CC=C(C=C1)O | C11H12O3
reactant | sodium hydride | 170 mmol, 6.7 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-bromo-1,1-diethoxy-ethane | 84.3 mmol, 16.5 g | BrCC(OCC)OCC | C6H13BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-(2,2-diethoxy-ethoxy)-phenyl]-cyclopropanecarboxylic acid | 10 g | C(C)OC(COC1=CC=C(C=C1)C1(CC1)C(=O)O)OCC | C16H22O5
